US04294960
Ethyl 2-n-octyloxyimino-4-chloro-3-oxobutyrate (syn isomer, 169.6 g.), thiourea (42.3 g.), sodium acetate trihydrate (75.5 g.), water (420 ml.) and ethanol (1020 ml.) were treated in a similar manner to that of Example F-(3) to give ethyl 2-(2-aminothiazol-4-yl)-2-n-octyloxyiminoacetate (syn isomer, 65 g.), mp. 77° to 78° C.

reactant | Ethyl 2-n-octyloxyimino-4-chloro-3-oxobutyrate | 169.6 g | C(CCCCCCC)ON=C(C(=O)OCC)C(CCl)=O | C14H24ClNO4
reactant | thiourea | 42.3 g | NC(=S)N | CH4N2S
reactant | sodium acetate trihydrate | 75.5 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | water | 420 ml | O | H2O
solvent | ethanol | 1020 ml | C(C)O | C2H6O
product | ethyl 2-(2-aminothiazol-4-yl)-2-n-octyloxyiminoacetate | 65 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCCCCCCCC | C15H25N3O3S
